US04511392
4-(2-Nitrophenyl)isoxazole
A suspension of 75 g of 3-(dimethylamino)-2-(2-nitrophenyl)acrolein [prepared by the procedure of U. Hengartner et al., J. Org. Chem., 44, 3748 (1979)] and 47.3 g of hydroxylamine hydrochloride in 300 ml of ethanol was refluxed for 10 hours, then concentrated to dryness in vacuo. Water (400 ml) was added to the residue and the suspension filtered. The isolated solid was recrystallized from 2-propanol to yield 56 g of the title compound; m.p. 51°-54° C.

reactant | 3-(dimethylamino)-2-(2-nitrophenyl)acrolein | 75 g | CN(C=C(C=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C11H12N2O3
reactant | hydroxylamine hydrochloride | 47.3 g | Cl.NO
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-(2-Nitrophenyl)isoxazole | 56 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1C=NOC1 | C9H6N2O3
